US04870181
To a reactor having an agitator were added 11 liters of water, 7.30 kg (36.7 mole) of 3-aminoquinuclidine dihydrochloride and a solution made by mixing 2.93 kg (36.7 mole) of 50% sodium hydroxide and 2.44 kg of crushed ice to give a solution of 3-aminoquinuclidine monohydrochloride. To the cooled reactor solution (30° C.) was added a solution of 45 liters of pyridineand 8.12 kg (40.3 moles, i.e., an excess over the 3-aminoquinuclidine) of 4-amino-5-chloro-2-methoxybenzoic acid, an additional 10 liters of pyridine being used to rinse all the latter solution into the reactor. Cooling was stopped and the reaction mixture was stirred for 1/2 hr. To the reaction mixture was added 8.89 kg (43.0 moles) of warm melted DCC and the mixture was stirred at 25° C. for 6 hr. TLC of a sample, using 15% ammonium hydroxide in methanol on a silica gel plate by the method of P. Haefelfinzer in J. of Chromatography, 48 (184) 1970, showed the presence of unreacted 3-aminoquinuclidine. An additional 3.48 kg (16.8 mole) of DCC was added and the mixture was stirred for 16 hr. A repeat of the TLC test showed no 3-aminoquinuclidine was present.

reactant | 3-aminoquinuclidine dihydrochloride | 36.7 mole, 7.30 kg | Cl.Cl.NC1CN2CCC1CC2
reactant | sodium hydroxide | 36.7 mole, 2.93 kg | [OH-].[Na+]
solvent | water | 11 liters | O | H2O
product | 3-aminoquinuclidine monohydrochloride | Cl.NC1CN2CCC1CC2 | InChI=1S/C7H14N2.ClH/c8-7-5-9-3-1-6(7)2-4-9;/h6-7H,1-5,8H2;1H
